US04309345
25.7 ml of 1.1 M alane-triethylamine in benzene are added dropwise to the suspension of 7.7 g of [9-methoxy-2-oxo-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-1yl]-acetyl-piperidine in 85 ml of anhydrous tetrahydrofuran at 0°. The mixture is stirred for 3 hours at 0° and at room temperature for one hour. It is cooled, 20 ml of water are added dropwise, followed by 20 ml of 3 N aqueous sodium hydroxide. The resulting mixture is extracted with 400 ml of diethyl ether, the extract dried, evaporated, the residue crystallized from petroleum ether and recrystallized from ethyl acetate-hexane to give the 1-(2-piperidinoethyl)-3,4,5,5a,6,7-hexahydro-9-methoxy-2H-naphth[1,2-d]azepin-2-one melting at 125°-128°. Its hydrochloride melts (after drying at 100°/0.01 mmHg) at 223°-225°.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | [9-methoxy-2-oxo-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-1yl]-acetyl-piperidine | 7.7 g | COC=1C=C2CCC3C(=C(C(NCC3)=O)C3N(CCCC3)C(C)=O)C2=CC1 | C22H28N2O3
reactant | water | 20 ml | O | H2O
reactant | sodium hydroxide | 3 N, 20 ml | [OH-].[Na+]
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
product | 1-(2-piperidinoethyl)-3,4,5,5a,6,7-hexahydro-9-methoxy-2H-naphth[1,2-d]azepin-2-one | N1(CCCCC1)CCC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O | C22H30N2O2
